US05624937
1-Bromonaphthalene (0.15 mole, 31.0 g),4-nitrothiophenol 0.11 mole, 17.0 g), potassium carbonate (0.15 moles, 20.7 g), copper bronze (0.3 moles, 18.9 g) and cuprous chloride (0.06 moles, 6.0 g) were refluxed in 500 ml pyridine for 3 days. The reaction was filtered while hot, and then concentrated. Ethyl acetate was added and the solution washed with water and 5N HCl, dried over sodium sulfate and concentrated. The product was purified twice by HPLC over silica gel eluted with 20% ethyl acetate/hexane followed by 5 ethyl acetate/hexane to yield 1-(4-nitrophenylthio)naphthalene 11.0 g, 26%. Mass Spec (FD) 282. Calculated for C16H11NO2S: C, 68.31 H, 3.94, N, 4.98. Found: C, 68.52; H, 4.00; N, 4.77.

reactant | 1-Bromonaphthalene | 0.15 mole, 31.0 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | 4-nitrothiophenol | 0.11 mole, 17.0 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | potassium carbonate | 0.15 moles, 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper bronze | 0.3 moles, 18.9 g | [Cu] | Cu
product | 1-(4-nitrophenylthio)naphthalene | 11.0 g, 26% | [N+](=O)([O-])C1=CC=C(C=C1)SC1=CC=CC2=CC=CC=C12 | C16H11NO2S
